US03947468
He reports in J. Chem. Soc., 1933, 1400, that to synthesize this compound, he first had to prepare the δ-lactone of 2'-hydroxy-2-biphenylenecarboxylic acid. His initial attempts to prepare this lactone by reaction of magnesium with o-bromophenyl-o-bromobenzoate or by diazotization of phenyl anthranilate failed. He was able to make it in 22 percent yield by reaction of phenol with anthranilic acid diazonium sulfate. The lactone was reacted with an excess of methyl magnesium iodide to give an almost quantitative yield of 2'-hydroxy-2-biphenylisopropanol, also known as o-(o-hydroxyphenyl)-α,α-dimethylbenzyl alcohol. This latter compound was dehydrated in about 90 percent yield to the desired pyran. He also made the 2-methyl homologue of the pyran by using p-cresol in place of phenol. M. Anchel and A. H. Blatt reported in J. Am. Chem. Soc., 63, 1948 (1941), that Cahn was mistaken when he reported that the 2,6,6-trimethyl-6H-dibenzo[b,d]-pyran, when heated with a mixture of hydrochloric and acetic acids, underwent opening of the pyran ring and loss of acetone to form 2-hydroxy-5-methylbiphenyl. The showed that instead the product was 1,9,9-trimethyl-4-fluorenol, the fluorenol isomer of the above trimethyldibenzopyran. They also showed that the fluorenol could be obtained directly from the 2'-hydroxy-5'-methyl-2-biphenylisopropanol by heating it with the mixture of hydrochloric and acetic acids in a sealed tube at 200°. The yield increased and then decreased with time being 35, 71, 68 and 51 percent after 8, 24, 31 and 48 hours, respectively. If the heating was stopped at the end of 30 minutes, an 80 percent yield of the pyran was obtained.

reactant | o-(o-hydroxyphenyl)-α,α-dimethylbenzyl alcohol | OC1=C(C=CC=C1)C1=C(C(C)(C)O)C=CC=C1 | C15H16O2
reactant | pyran | O1CC=CC=C1 | C5H6O
reactant | p-cresol | C1=CC(=CC=C1O)C | C7H8O
reactant | 2,6,6-trimethyl-6H-dibenzo[b,d]-pyran | CC1=CC2=C(OC(C3=C2C=CC=C3)(C)C)C=C1 | C16H16O
solvent | acetone | CC(=O)C | C3H6O
product | 2-hydroxy-5-methylbiphenyl | OC1=C(C=C(C=C1)C)C1=CC=CC=C1 | C13H12O
